US04049559
b. Preparation of 1,5-Di-(3,3-dimethylnorborn-2-yl)-3-pentanone
3-(3,3-Dimethylnorborn-2-yl)propionic acid (392 g., 2.0 moles) and iron (hydrogen reduced, 61.5 g., 1.1 moles) is heated for 1.5 hours at 195° C. under a nitrogen atmosphere. After that time, the temperature is increased to 290° C. and maintained at that temperature for 3 hours. The cooled reaction mass was extracted well with ether, filtered through Celite, and the ethereal extracts concentrated under vacuum. The residual oil is distilled under vacuum to leave the product as a liquid, b.p. 172° C.-173° C./0.05-0.1 mm.

reactant | 3-(3,3-Dimethylnorborn-2-yl)propionic acid | 2.0 moles, 392 g | CC1(C(C2CCC1C2)CCC(=O)O)C | C12H20O2
catalyst | iron | 1.1 moles, 61.5 g | [Fe] | Fe
product | 1,5-Di-(3,3-dimethylnorborn-2-yl)-3-pentanone | CC1(C(C2CCC1C2)CCC(CCC2C1CCC(C2(C)C)C1)=O)C | C23H38O
